US05324839
STEP C: 1-phenyl-2-hexanone
100 ml of n-tetrabutyl tin, then 120 mg of [benzyl (chloro) bis(triphenyl phosphine)]palladium were added to a solution of 40 ml of phenyl acetyl chloride in 500 ml of tetrahydrofuran. The mixture was stirred for 15 hours at reflux, filtered on clarcel and evaporated to dryness. The residue was distilled at 65° C. to 68° C. under 0.5 mm of mercury and the main fraction was chromatographed on silica (eluant: hexane - ethyl acetate (9-1)) to obtain 27.5 g of the desired product.

reactant | phenyl acetyl chloride | 40 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-phenyl-2-hexanone | 27.5 g | C1(=CC=CC=C1)CC(CCCC)=O | C12H16O
